US04110326
95 g (0.258 mole) of 5α,6β-dihydroxy-17-bromo-androsta-2,16-diene are dissolved in 950 ml of anhydrous pyridine, and 21 ml (0.276 mole) of methanesulfonic acid chloride are added under stirring at room temperature to the solution. The reaction mixture is allowed to stand for 16 hours and then poured under vigorous stirring into 9 liters of ice water. The precipitating difficulty separable substance is extracted with 1600 ml of dichloro methane. The dichloro methane extract is washed with aqueous 10% hydrochloric acid solution to remove the pyridine and then with water until neutral, dried over sodium sulfate and evaporated to dryness. The evaporation residue, which is a mixture of 5α-hydroxy-6β-chloro-17-bromo-androsta-2,16-diene and 5α,6β-epoxy-17-bromo-androsta-2,16-diene, is dissolved in diethyl ether and etheral hydrochloric acid solution is added thereto until pH = 2 to 3. The so obtained 5α-hydroxy-6β-chloro-17-bromo-androsta-2,16-diene is separated and purified by mixing it with 10-fold amount of petroleum ether. 79.0 g of 5α-hydroxy-6β-chloro-17 -bromo-androsta-2,16-diene (79.0%) are obtained; m.p. 125°-126° C; [α]D25 = + 3.8° (c = 1 in chloroform).

reactant | 5α,6β-dihydroxy-17-bromo-androsta-2,16-diene | 0.258 mole, 95 g | O[C@]12[C@@H](C[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@]2(CC=CC1)C)Br)O | C19H27BrO2
reactant | methanesulfonic acid chloride | 0.276 mole, 21 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 950 ml | N1=CC=CC=C1 | C5H5N
product | 5α-hydroxy-6β-chloro-17-bromo-androsta-2,16-diene | O[C@]12[C@@H](C[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@]2(CC=CC1)C)Br)Cl | C19H26BrClO
